US07429565B2
2-{4-[(1-Carboxy-ethoxy)-hydroxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester
A solution of 2-{4-[(1-ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanylethyl ester (12 mg, 0.016 mmol) in tert-butylamine (1 mL, 9.6 mmol) was heated at 65° C. for 16 hours. The solution was allowed to cool to room temperature and concentrated to provide the crude product as an oil. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 9H), 0.04 (s, 9H), 0.86-0.98 (m, 2H), 1.22-1.33 (m, 2H), 1.50 (d, 3H, J=7 Hz), 1.78 (s, 3H), 2.05-2.30 (m, 4H), 2.10 (s, 3H), 2.48-2.63 (m, 3H), 3.40 (d, 2H, J=7 Hz), 3.76 (s, 3H), 4.08 (appt t, 2H, J=9 Hz), 4.25-4.33 (m, 2H), 4.75-4.84 (m, 1H), 5.13 (s, 2H), 5.15-5.23 (m, 1H), 5.33-5.55 (m, 2H) ppm; 31P (121.4 MHz, CDCl3) δ 28.9 ppm; MS (m/z) 725.3 [M−H]−.

reactant | 2-{4-[(1-ethoxycarbonyl-ethoxy)-methoxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanylethyl ester | 0.016 mmol, 12 mg | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)OC(C)C(=O)OCC)=O)(C)C | C37H61O11PSi2
reactant | tert-butylamine | 9.6 mmol, 1 mL | C(C)(C)(C)N | C4H11N
product | 2-{4-[(1-Carboxy-ethoxy)-hydroxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(O)OC(C)C(=O)O)=O)(C)C | C34H55O11PSi2
